US03945995
Preparation of p-nitrophenyl 3-hydroxypyridazine-4-carboxylate
3-Hydroxypyridazine-4-carboxylic acid (1.40 g) was dissolved in pyridine (20 ml) at 40°C, and p-nitrophenyl trifluoroacetate (2.82 g) was dropwise added thereto. The resultant mixture was stirred at 40° to 50°C for 1 hour and concentrated under reduced pressure to dryness. The residue was washed with chloroform and acetone in order and dried to give the objective compound (2.21 g). M.P. 233°C (decomp.).

reactant | 3-Hydroxypyridazine-4-carboxylic acid | 1.40 g | OC=1N=NC=CC1C(=O)O | C5H4N2O3
reactant | p-nitrophenyl trifluoroacetate | 2.82 g | FC(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C8H4F3NO4
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | p-nitrophenyl 3-hydroxypyridazine-4-carboxylate | 2.21 g | OC=1N=NC=CC1C(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H7N3O5
